US05610144
0.9 cm3 of sulphinyl chloride is added slowly to a suspension of 3.1 g of tert-butyl (2RS,5SR)-5-phenylprolinate and 2.6 g of 2-[3-(3-methylphenyl)ureido]acetic acid in 100 cm3 of anhydrous 1,2-dichloroethane heated to reflux. The reaction mixture is then heated under reflux for 15 minutes, then cooled to 50° C. and neutralized to a pH of 7-8 by addition of a 10% aqueous sodium bicarbonate solution. The organic phase is washed with 3 times 50 cm3 of water, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure. The crude product obtained is purified by chromatography on silica [eluent: dichloromethane/methanol (98/2 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at a temperature in the vicinity of 45° C. After recrystallization in acetonitrile, 1 g of tert-butyl (2RS,5SR)-1-{2-[3-(3-methylphenyl)ureido]acetyl}-5-phenylprolinate, melting at 156° C., is obtained.

reactant | sulphinyl chloride | 0.9 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | tert-butyl (2RS,5SR)-5-phenylprolinate | 3.1 g | C1(=CC=CC=C1)C1CCC(N1)C(=O)OC(C)(C)C | C15H21NO2
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 2.6 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 100 cm3 | ClCCCl | C2H4Cl2
product | tert-butyl (2RS,5SR)-1-{2-[3-(3-methylphenyl)ureido]acetyl}-5-phenylprolinate | 1 g | CC=1C=C(C=CC1)NC(NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1)=O | C25H31N3O4
